US07635701B2
a) 2-Chloro-4-trifluoromethyl-pyrimidine-5-carboxylic acid cyclobutylmethyl-amide
A mixture of 2-chloro-4-trifluoromethyl-pyrimidine-5-carbonyl chloride (613 mg) (Maybridge) and C-cyclobutylmethylamine hydrochloride (304 mg) in dry dichloromethane (10 ml) was cooled to −30° C. and N,N-diisopropylethylamine (958 ul) was added dropwise. The mixture was stirred at room temp for 1 hour. Water (10 ml) was added, the layers separated and the organic layer was washed sequentially with 10 ml portions of water, dilute hydrochloric acid, water, dilute sodium bicarbonate solution and water, dried (MgSO4) and evaporated. Purification by chromatography on silica gel (dichloromethane/ether 25:1) gave the title compound (449 mg).

reactant | 2-chloro-4-trifluoromethyl-pyrimidine-5-carbonyl chloride | 613 mg | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)Cl | C6HCl2F3N2O
reactant | C-cyclobutylmethylamine hydrochloride | 304 mg | Cl.C1(CCC1)CN
reactant | N,N-diisopropylethylamine | 958 ul | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | 10 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Chloro-4-trifluoromethyl-pyrimidine-5-carboxylic acid cyclobutylmethyl-amide | 449 mg | C1(CCC1)CNC(=O)C=1C(=NC(=NC1)Cl)C(F)(F)F | C11H11ClF3N3O
